US08097617B2
[7-Aminomethyl-6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridin-8-yl]-isobutyl-amine
In a sealed flask, a solution of 6-(2,4-dichloro-phenyl)-8-isobutylamino-imidazo[1,2-a]pyridine-7-carbonitrile (19.1 mg, 0.053 mmol) in THF (0.5 mL) was cooled to 0° C. (ice bath), treated with BH3.THF complex (1.0 M solution in THF, 0.48 mL, 0.48 mmol) and heated at 40° C. After 1 h, the reaction was not complete according to HPLC. 4.0 M HCl in dioxane (2 drops) and additional BH3.THF complex (1.0 M solution in THF, 0.16 mL, 0.16 mmol) were added, then the reaction mixture was heated at 40° C. for 14 h, cooled to 0° C., and diluted in MeOH (large excess). The resulting mixture was concentrated under vacuum, and the remaining residue was dissolved in TFA. After evaporation to dryness, the remaining residue was purified by reverse phase prep-HPLC (Waters system) to give the title compound (2TFA salt, 7.6 mg, 0.013 mmol, 24%). MS: 363 [M+1]+; HPLC: AtRet=1.47.

reactant | 6-(2,4-dichloro-phenyl)-8-isobutylamino-imidazo[1,2-a]pyridine-7-carbonitrile | 0.053 mmol, 19.1 mg | ClC1=C(C=CC(=C1)Cl)C=1C(=C(C=2N(C1)C=CN2)NCC(C)C)C#N | C18H16Cl2N4
reactant | BH3.THF | 0.48 mmol, 1.0 M, 0.48 mL | B.C1CCOC1
reactant | HCl | 4.0 M | Cl | ClH
reactant | BH3.THF | 0.16 mmol, 1.0 M, 0.16 mL | B.C1CCOC1
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
catalyst | dioxane | 2 drops | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
product | [7-Aminomethyl-6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridin-8-yl]-isobutyl-amine | 0.013 mmol, 7.6 mg, 24% | NCC1=C(C=2N(C=C1C1=C(C=C(C=C1)Cl)Cl)C=CN2)NCC(C)C | C18H20Cl2N4
